Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-2.85229407664
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.1633079218
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:3],4.01650602809
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6],5.68580035392
[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],-2.57062072132
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6],-3.17552477024
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.83556242863
[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3][C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-8.61734956
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.0288315604900005
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11],0.566083535179
[C:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.22521589743
[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-3.4802593880900003
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:3],2.24988391374
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],6.96191864653
[C:5][H:6].[O:1]=[C:2]=[C:3]([O:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.57345885117
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.73396152982
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[C:8]([H:9])[H:10],6.9649438022000005
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.90139916996
[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-6.65944176284
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.58185238456
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.993530257159
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.82502347055
[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-6.116446038049999
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],3.85764504985
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.7488021742400002
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],1.20058899108
[H:10].[H:1][C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9][O:11][H:12]>>[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:11][H:12],-3.9086637104
[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])[O:5][H:6],3.29131117594
[H:1][O:2][C:3][O:4][C:5][H:6].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],-4.40697483809
[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96776972807
